US05747423
2-(5-Chloro-2-thienyl)4-chloro-6-(2-chloro-4-pyridyloxy)pyrimidine
0.4 g 2-(5-Chloro-2-thienyl)-4,6-dichloropyrimidine, 0.2 g 2-Chloro-4-hydroxypyridine, and 0.3 g potassium carbonate are refluxed in 30 mL dry acetonitril for 16 hours. The mixture is poured into water, and the product is extracted with toluene and purified by flash chromatography (0.38 g, m.p. 154°-156° C.).

reactant | 2-(5-Chloro-2-thienyl)-4,6-dichloropyrimidine | 0.4 g | ClC1=CC=C(S1)C1=NC(=CC(=N1)Cl)Cl | C8H3Cl3N2S
reactant | 2-Chloro-4-hydroxypyridine | 0.2 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitril | 30 mL | C(C)#N | C2H3N
product | 2-(5-Chloro-2-thienyl)4-chloro-6-(2-chloro-4-pyridyloxy)pyrimidine | ClC1=CC=C(S1)C1=NC(=CC(=N1)Cl)OC1=CC(=NC=C1)Cl | C13H6Cl3N3OS
